US06369078B1
N-Boc-2-(cis-1-Butenyl)Piperidine
A suspension of propyltriphenylphosphonium bromide (12.01 g, 31.2 mmol) in 60 mL of THF was cooled to −30° C. and treated with n-BuLi (12.5 mL, 31.2 mmol) dropwise. The deep red solution was slowly warmed to 0° C., stirred for 30 min, and then cooled to −78° C. The ylide was treated with a solution of N-Boc-piperidine-2-carboxaldehyde (4.1 g, 20.8 mmol) in 10 mL of THF, and the mixture was slowly warmed to room temperature. The mixture was diluted with water, and the organic layer was separated. The aqueous layer was extracted with ether and the combined extracts were dried over K2CO3 and then concentrated to give a crude product as an oil. Chromatography on silica with 5% EtOAc/hexane afforded 3.3 g (67%) of the product which was homogenous by TLC analysis. 1H NMR (250 MHz) δ5.68-5.39 (m, 2 H), 5.01-4.97 (m, 1 H), 3.92-3.88 (br d, 1 H), 2.87-2.78 (dt, 1 H), 2.13-2.06 (m, 2 H), 1.64-1.22 (m, 17 H), 0.96-0.91 (t, 3 H); 13C NMR (62.7 MHz) 154.6 (s), 133.4 (s), 126.3 (s), 47.8 (s), 39.5 (s), 31.5 (s), 30.6 (s), 28.4 (s), 28.2 (s), 25.5 (s), 22.5 (s), 20.8 (s), 19.4 (s), 14.1 (s) ppm.

reactant | propyltriphenylphosphonium bromide | 31.2 mmol, 12.01 g | [Br-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 31.2 mmol, 12.5 mL | [Li]CCCC
reactant | N-Boc-piperidine-2-carboxaldehyde | 20.8 mmol, 4.1 g | C(=O)(OC(C)(C)C)N1C(CCCC1)C=O | C11H19NO3
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-Boc-2-(cis-1-Butenyl)Piperidine | 3.3 g, 67% | C(=O)(OC(C)(C)C)N1C(CCCC1)\C=C/CC | C14H25NO2
